US08604029B2
A solution of (4-nitro-phenylamino)-acetic acid (1.3 g, 6.6 mmol) in formic acid (5 mL) and formaldehyde (5 mL) was heated at reflux overnight. The mixture was concentrated in vacuo and 1N hydrochloric acid added to the residue giving a pH ˜3. The mixture was extracted with ethyl acetate then the organic phase was washed with water and brine. Concentration in vacuo afforded [methyl-(4-nitro-phenyl)-amino]-acetic acid (1.2 g, 86%) as a yellow solid.

reactant | (4-nitro-phenylamino)-acetic acid | 6.6 mmol, 1.3 g | [N+](=O)([O-])C1=CC=C(C=C1)NCC(=O)O | C8H8N2O4
reactant | formic acid | 5 mL | C(=O)O | CH2O2
solvent | formaldehyde | 5 mL | C=O | CH2O
product | [methyl-(4-nitro-phenyl)-amino]-acetic acid | 1.2 g, 86% | CN(C1=CC=C(C=C1)[N+](=O)[O-])CC(=O)O | C9H10N2O4
